* C:\users\chris\Projects\eurorack\DIST\hardware\ltspice\combined.asc
V1 N002 0 PULSE(0 250m 0 {0.5/freq} {0.5/freq} 0 {1/freq})
V2 N001 0 24
R1 VDD BIAS 100k
R2 BIAS 0 100k
C1 BIAS 0 47µ
R3 VDD N001 47
V3 NC_01 0 SINE(0 1 {freq})
V4 VIN 0 wavefile="C:\input.wav" chan=0
B1 IN 0 V=V(VIN)*5
B2 OUT 0 V=V(VOUT)/5
C2 N013 N012 22n
R4 N013 BIAS 1Meg
XU1 N013 N017 VDD 0 N015 TL072
C3 N015 N017 1n
D1 N017 N015 1N4148
D2 N015 N017 1N4148
R5 N015 N017 50k
R6 N017 N021 1k
C4 N021 0 220n
R7 N008 N015 1k
C5 N008 0 220n
C6 N018 N007 220n
R8 N009 N008 2.2k
R9 N010 N008 220k
R10 N011 N009 5k
R11 N003 N011 5k
C7 N011 N010 1n
XU2 BIAS N010 VDD 0 N004 TL072
C8 N004 N010 1n
R12 N004 N003 1k
R13 N004 N010 220k
R14 N018 N019 10k
R15 N019 BIAS 90k
R16 N020 N019 560
R17 N012 N005 20k
R18 N012 BIAS 10k
XU3 N004 N006 VDD 0 N007 TL072
R19 N007 N006 40k
R20 N006 BIAS 10k
XU11 N020 N016 VDD 0 N016 TL072
XU12 N014 N005 VDD 0 N005 TL072
C45 N014 IN 22n
R94 N014 BIAS 1Meg
C9 VOUT N016 220n
R21 VOUT 0 100k
.model D D
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.dio
.param freq=100
* SINE
* TRI
* AUDIO
* SOURCES
* POWER
* SCALE TO +-5V
* SCALE TO +-1V
.tran 5
.wave "C:\export.wav" 16 44.1k V(OUT)
.SUBCKT TL072    1 2 3 4 5
*
C1   11 12 3.498E-12
C2    6  7 15.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
GA    6  0 11 12 282.8E-6
GCM   0  6 10 99 8.942E-9
ISS   3 10 DC 195.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 3.536E3
RD2   4 12 3.536E3
RO1   8  5 150
RO2   7 99 150
RP    3  4 2.143E3
RSS  10 99 1.026E6
VB    9  0 DC 0
VC    3 53 DC 2.200
VE   54  4 DC 2.200
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS
* TONE POT
* VOL POT
* INPUT SCALING
* CLIPPING
* TONE
* OUTPUT SCALING
* OVERDRIVE
.backanno
.end
