* C:\users\chris\Projects\eurorack\DIST\hardware\ltspice\fuzz.asc
V1 N002 0 PULSE(0 250m 0 {0.5/freq} {0.5/freq} 0 {1/freq})
V2 N001 0 24
R1 VDD BIAS 10k
R2 BIAS 0 10k
C1 BIAS 0 47µ
R3 VDD N001 47
V3 NC_01 0 SINE(0 1 {freq})
V4 VIN 0 wavefile="C:\input.wav" chan=0
B1 IN 0 V=V(VIN)*5
B2 OUT 0 V=V(VOUT)/8
R4 N015 IN 20k
R5 0 N015 10k
C2 N016 N015 22n
R6 N016 0 1Meg
R7 N017 N016 6.8k
C3 N017 0 22n
XU1 N017 N021 VDD 0 N018 TL072
R8 N018 N021 100k
R9 N021 0 10k
C4 N019 N018 1µ
R10 N019 N025 50k
R11 N025 N028 50k
R12 N028 0 1k
C5 N026 N025 100n
R13 N009 N026 10k
R14 N009 0 100k
Q1 N006 N009 N027 0 BC547B
R15 N027 0 150
R16 N006 N009 470k
C6 N006 N009 1n
C7 N005 N009 1µ
D1 N006 N005 1N4148
D2 N005 N006 1N4148
R17 VDD N006 10k
C8 N022 N006 100n
R18 N007 N022 10k
R19 N007 0 100k
Q2 N004 N007 N024 0 BC547B
R20 N024 0 150
R21 N004 N007 470k
C9 N004 N007 1n
C10 N003 N007 1µ
D3 N004 N003 1N4148
D4 N003 N004 1N4148
R22 VDD N004 10k
R23 N020 N004 39k
C11 N008 N004 4n
R24 N008 N010 50k
R25 N010 N020 50k
R26 0 N008 22k
C12 N020 0 10n
XU2 N011 N014 VDD 0 N012 TL072
R27 N012 N014 150k
R28 N014 BIAS 10k
R29 N013 N023 10k
R30 N023 0 90k
R31 VOUT N023 560
C13 N013 N012 220n
R32 N011 BIAS 1Meg
C14 N011 N010 22n
.model D D
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param freq=100
* SINE
* TRI
* AUDIO
* SOURCES
* POWER
* SCALE TO +-5V
* SCALE TO +-1V
.tran 5
.wave "C:\export.wav" 16 44.1k V(OUT)
* INPUT FILTERING
* SCALE
* DRIVE POT
* 100k-A
* SUSTAIN | DRIVE
* CLIP A
.SUBCKT TL072    1 2 3 4 5
*
C1   11 12 3.498E-12
C2    6  7 15.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
GA    6  0 11 12 282.8E-6
GCM   0  6 10 99 8.942E-9
ISS   3 10 DC 195.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 3.536E3
RD2   4 12 3.536E3
RO1   8  5 150
RO2   7 99 150
RP    3  4 2.143E3
RSS  10 99 1.026E6
VB    9  0 DC 0
VC    3 53 DC 2.200
VE   54  4 DC 2.200
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS
* CLIP B
* TONE
* VOL POT
* 100k-A
* VOLUME
.backanno
.end
