* C:\users\chris\Projects\eurorack\DIST\hardware\ltspice\od.asc
V2 IN VSS PULSE(0 250m 0 {0.5/freq} {0.5/freq} 0 {1/freq})
V3 VDD VSS 9
R4 N001 0 1m
XU1 N001 N003 VDD VSS N002 TL072
D1 N003 N002 1N4148
D2 N002 N003 1N4148
R7 N002 N003 50k
R8 N003 P001 1k
C1 N001 IN 22n
C3 N002 N003 470p
C4 P001 VSS 220n
R1 VDD 0 10k
R2 0 VSS 10k
.model D D
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.025
.SUBCKT TL072    1 2 3 4 5
*
C1   11 12 3.498E-12
C2    6  7 15.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
GA    6  0 11 12 282.8E-6
GCM   0  6 10 99 8.942E-9
ISS   3 10 DC 195.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 3.536E3
RD2   4 12 3.536E3
RO1   8  5 150
RO2   7 99 150
RP    3  4 2.143E3
RSS  10 99 1.026E6
VB    9  0 DC 0
VC    3 53 DC 2.200
VE   54  4 DC 2.200
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS
.param freq=100
.backanno
.end
