* C:\users\chris\Projects\eurorack\DIST\hardware\ltspice\wrmergle.asc
V1 N001 0 PULSE(0 250m 0 {0.5/freq} {0.5/freq} 0 {1/freq})
V3 NC_01 0 SINE(0 1 {freq})
V4 VIN 0 wavefile="C:\input.wav" chan=0
B1 IN 0 V=V(VIN)*5
B2 OUT 0 V=V(VOUT)/8
R4 N009 IN 200k
R5 0 N009 100k
R23 N026 N022 39k
C14 N023 N022 4n
R24 N023 N025 50k
R25 N025 N026 50k
R26 0 N023 22k
C15 N026 0 10n
C16 N024 N021 220n
R27 N024 N027 50k
R28 N027 0 50k
R29 VOUT N027 560
XU4 N025 N020 VDD VSS N021 TL072
R30 N021 N020 100k
R31 N020 0 10k
XU1 N002 N011 VDD VSS N010 TL072
C4 N010 N011 1n
D1 N011 N010 1N4148
D2 N010 N011 1N4148
R8 N010 N011 100k
R9 N011 N019 1k
C5 N019 0 220n
R10 N005 N002 50k
R11 N002 0 50k
R12 N005 N010 1k
C3 N002 N009 100n
R7 N002 0 10k
C6 N013 N010 10µ
R13 N013 N015 2.2k
M1 N015 N016 N018 N018 BSP89
R14 VDD N017 470k
Q1 N017 N014 0 0 BC547B
C7 N014 0 220n
D3 N012 N014 1N4148
D4 0 N012 1N4148
C8 N007 N012 1µ
Q2 N007 N003 0 0 BC547B
R15 N003 N007 2.2Meg
R16 VDD N007 4.7k
C9 N003 N008 1µ
R17 N008 N004 100k
XU2 N006 N004 VDD VSS N004 TL072
C10 N015 N022 4.7µ
R18 N017 N016 1k
R19 VDD N018 1k
R20 N018 0 47
C11 N006 IN 220n
R21 N006 0 1Meg
V2 VDD 0 12
V5 VSS 0 -12
.model D D
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.mos
.param freq=100
* SINE
* TRI
* AUDIO
* SOURCES
* POWER
* SCALE TO +-5V
* SCALE TO +-1V
.tran 5
.wave "C:\export.wav" 16 44.1k V(OUT)
.SUBCKT TL072    1 2 3 4 5
*
C1   11 12 3.498E-12
C2    6  7 15.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
GA    6  0 11 12 282.8E-6
GCM   0  6 10 99 8.942E-9
ISS   3 10 DC 195.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 3.536E3
RD2   4 12 3.536E3
RO1   8  5 150
RO2   7 99 150
RP    3  4 2.143E3
RSS  10 99 1.026E6
VB    9  0 DC 0
VC    3 53 DC 2.200
VE   54  4 DC 2.200
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS
* INPUT FILTERING
* TONE
* VOL POT
* 100k-A
* BUFFER
* VOLUME
* CLIPPING
* DRIVE POT
* 100k-A
* TONE POT
* 100k-A
* GATE POT
* 100k-B
* NOISE GATE
.backanno
.end
